US06713474B2
3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl (4-nitrophenyl) carbonate (0.052 mmol) in dichloromethane (1 ml) was added to 2-morpholinoethylamine (0.2 ml). The resulting mixture was stirred under nitrogen at ambient temperature for 24 hours. The reaction mixture was diluted with ethyl acetate and washed, dried (MgSO4), filtered and evaporated. The solid was purified by preparative HPLC to give 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl N-(2-morpholinoethyl)carbamate. The structure was confirmed by 1H NMR and LC/MS (MH+=543).

reactant | 3-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl (4-nitrophenyl) carbonate | 0.052 mmol | C(OC1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C30H25N5O6
reactant | 2-morpholinoethylamine | 0.2 ml | O1CCN(CC1)CCN | C6H14N2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl N-(2-morpholinoethyl)carbamate | O1CCN(CC1)CCNC(OC1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2)=O | C30H34N6O4
